US08530503B2
6-(5-(3,4-diethoxyphenyl)-1,2,4-oxadiazol-3-yl)indolin-2-one
To a stirred solution of 3,4-diethoxybenzoic acid (73 mg, 0.35 mmol) in 1,4-dioxane was added EDCI (87 mg, 0.45 mmol) and HOBt (62 mg, 0.45 mmol), the reaction was stirred 20 min at room temperature. To the reaction was added the N-hydroxyimidamide (87 mg, 0.45 mmol) and the mixture was stirred for 30 min at room temperature followed by 16 h at 95° C. The reaction was concentrated under reduced pressure, diluted with EtOAc (80 ml) and washed with brine (2×30 ml). The organic layer was dried over Na2SO4 and concentrated under reduced pressure. The crude was purified by column chromatography using CH2Cl2:MeOH (9:1) to offer the product as a pale yellow solid 50% yield (64 mg, 0.175 mmol). MS (EI) m/z: 366 (M+)

reactant | 3,4-diethoxybenzoic acid | 0.35 mmol, 73 mg | C(C)OC=1C=C(C(=O)O)C=CC1OCC | C11H14O4
reactant | EDCI | 0.45 mmol, 87 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.45 mmol, 62 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 6-(5-(3,4-diethoxyphenyl)-1,2,4-oxadiazol-3-yl)indolin-2-one | 0.175 mmol, 64 mg, 50% yield | C(C)OC=1C=C(C=CC1OCC)C1=NC(=NO1)C1=CC=C2CC(NC2=C1)=O | C20H19N3O4
